US07696200B2
5-{[4-(5-Chloro-2-methoxy-benzenesulfonyl)-3,4-dihydro-2H-benzo[1,4]oxazine-6-carbonyl]-amino}-pyridine-2-carboxylic acid, MS (ISP): m/e=502.0, 503.9 (M−H), was prepared as described in example 1, steps 1 to 6. Step 5 was performed using 5-amino-pyridine-2-carboxylic acid ethyl ester and yielded 5-{[4-(5-chloro-2-methoxy-benzenesulfonyl)-3,4-dihydro-2H-benzo[1,4]oxazine-6-carbonyl]-amino}-pyridine-2-carboxylic acid ethyl ester, which was hydrolyzed in step 6.

reactant | 5-{[4-(5-Chloro-2-methoxy-benzenesulfonyl)-3,4-dihydro-2H-benzo[1,4]oxazine-6-carbonyl]-amino}-pyridine-2-carboxylic acid | ClC=1C=CC(=C(C1)S(=O)(=O)N1CCOC2=C1C=C(C=C2)C(=O)NC=2C=CC(=NC2)C(=O)O)OC | C22H18ClN3O7S
reactant | 5-amino-pyridine-2-carboxylic acid ethyl ester | C(C)OC(=O)C1=NC=C(C=C1)N | C8H10N2O2
product | 5-{[4-(5-chloro-2-methoxy-benzenesulfonyl)-3,4-dihydro-2H-benzo[1,4]oxazine-6-carbonyl]-amino}-pyridine-2-carboxylic acid ethyl ester | C(C)OC(=O)C1=NC=C(C=C1)NC(=O)C=1C=CC2=C(N(CCO2)S(=O)(=O)C2=C(C=CC(=C2)Cl)OC)C1 | C24H22ClN3O7S
